US04529736
A 100 g portion of N-methylmaleimide was reacted with 126.2 g of p-nitroaniline as described in Example 6, giving 78 g of 2-(p-nitrophenyl)-N-methylmaleimide.

reactant | N-methylmaleimide | CN1C(C=CC1=O)=O | C5H5NO2
reactant | p-nitroaniline | 126.2 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
product | 2-(p-nitrophenyl)-N-methylmaleimide | 78 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1C(=O)N(C(C1)=O)C | C11H8N2O4
